### PR TITLE
proof: updated type_lub_type_glb_commut proof

### PR DESCRIPTION
**Pull request by nelch**

### CODE REVIEW

**Comment by nelch** [comment]
Well for some reason it wants to push 3 commits. Hopefully this is fine?

File: cogent/isa/Subtyping.thy [hunk 1]
```diff
@@ -138,74 +138,32 @@ lemma type_lub_type_glb_commut:
...
-      "(n, t, b) \<in> set ts"
-      "(n, t1, b1) \<in> set ts1"
-      "(n, t2, b2) \<in> set ts2"
-    then show "t \<leftarrow> t2 \<squnion> t1 \<and> b = inf b2 b1"
-      using lub_trecord
-      by (auto simp add: inf_commute)
-  qed simp+
+    apply (intro type_lub_type_glb.intros)
+    using list_all3_comm2 list_all3_mono apply fastforce
+         apply (induct rule: list_all3_induct)
```
Comment (vjackson725) [inline cogent/isa/Subtyping.thy]: Try to avoid doing inductions inside inductions. Such a technique is very rarely necessary. Instead, in this case, I would recommend using `list_all3_conv_all_nth` as a simp rule.

For example, this subgoal can be solved by `apply (clarsimp simp add: list_all3_conv_all_nth, metis sup_commute)` without resorting to induction.

File: cogent/isa/Subtyping.thy [hunk 2]
```diff
@@ -138,74 +138,32 @@ lemma type_lub_type_glb_commut:
...
-    assume
-      "(n, t, b) \<in> set ts"
-      "(n, t1, b1) \<in> set ts1"
-      "(n, t2, b2) \<in> set ts2"
-    then show "t \<leftarrow> t2 \<squnion> t1 \<and> b = inf b2 b1"
-      using lub_trecord
-      by (auto simp add: inf_commute)
-  qed simp+
+    apply (intro type_lub_type_glb.intros)
+    using list_all3_comm2 list_all3_mono apply fastforce
```
Comment (vjackson725) [inline cogent/isa/Subtyping.thy]: n.b. `apply (clarsimp simp add: list_all3_conv_all_nth)` will solve this.

File: cogent/isa/Subtyping.thy [hunk 3]
```diff
@@ -138,74 +138,32 @@ lemma type_lub_type_glb_commut:
...
+         apply (induct rule: list_all3_induct)
+          apply simp
+    using sup_commute apply fastforce
+    by (simp+)[5]
```
Comment (vjackson725) [inline cogent/isa/Subtyping.thy]: Avoid ending apply-style goals with by, as you loose the indent information on how many subgoals were left to prove, and it's mixing apply and Isar style.

Similarly with using, it's hard not to use using sometimes, but putting the apply on the line after the using indents the apply properly.

File: cogent/isa/Subtyping.thy (hunk 1 above)
Comment (vjackson725) [reply cogent/isa/Subtyping.thy]: It's sort of annoying, the `sup_commute` is throwing a spanner into Isabelle's automation. If we didn't have to use it, we could solve the entire goal with `by (fastforce intro!: type_lub_type_glb.intros simp add: list_all3_conv_all_nth)`, but adding the commut rule makes that solution loop.

**Comment by vjackson725** [comment]
On the git stuff, see if you can rebase on top of  `origin/proof-subtyping`; that might fix it. If not, I can fix it up post merge.

**Comment by nelch** [comment]
Made a new pull request because fixing this pull request is hard:
https://github.com/NICTA/cogent/pull/277
